US03944584
A. 11β,21-bis(Acetyloxy)-9-fluoropregna-1,4,16-triene-3,20-dione
A solution of 5 g of 9-fluoro-11β,21-dihydroxypregna-1,4,16-triene-3,20-dione, 21-acetate, 50 ml each of acetic anhydride and dichloromethane and 2.5 ml of boron trifluoride etherate is stirred at room temperature under nitrogen for 2.5 hours. Because the reaction is slow, another 1.5 ml of boron trifluoride etherate is added and the reaction is continued for another 1.5 hours. The resulting solution is diluted with 200 ml of dichloromethane, washed with a saturated sodium bicarbonate solution and water, dried over anhydrous sodium sulfate and evaporated in vacuo to give 5.2 g of a solid. This is chromatographed on a column of 100 g of silica gel. Elution with 1:4 hexane-chloroform gives 4.8 g of material. Crystallization from chloroform-hexane gives 4.2 g of the title compound, melting point 294-296°C.

reactant | 9-fluoro-11β,21-dihydroxypregna-1,4,16-triene-3,20-dione | 5 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C(C(CO)=O)[C@]1(C[C@@H]2O)C)=O)C | C21H25FO4
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | boron trifluoride etherate | 2.5 ml | B(F)(F)F.CCOCC
reactant | boron trifluoride etherate | 1.5 ml | B(F)(F)F.CCOCC
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 11β,21-bis(Acetyloxy)-9-fluoropregna-1,4,16-triene-3,20-dione | 5.2 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(COC(C)=O)=O)[C@]2(C1)C)=O)C)F | C25H29FO6
